US07612114B2
6-{2-{Ethyl[3-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (60 mg) and 3-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride (85 mg) according to an analogous synthetic method to Example 152, the title compound (70 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 60 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 3-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | 85 mg | Cl.N1(CCCCC1)CCOC=1C=C(C(=O)O)C=CC1
product | 6-{2-{Ethyl[3-(2-piperidin-1-ylethoxy)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 70 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=CC=C1)OCCN1CCCCC1 | C33H42N2O3
